US08487109B2
2-(5-Phenyl-pent-1-ynyl)-4-trifluoromethoxy-benzene
This product was prepared from toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester and pent-4-ynyl-benzene. Chromatography eluent: heptane; yield (140 mg, 93%); 1H NMR δ (CDCl3): 7.41 (d, J=8.32 Hz, 2H), 7.38-7.28 (m, 2H), 7.27-7.18 (m, 3H), 7.21 (d, J=8.34 Hz, 2H), 2.77 (t, J=7.12 Hz, 2H), 2.45 (t, J=7.13 Hz, 2H), 1.93 (p, J=7.21 Hz, 2H); LCMS m/z: 300.

reactant | toluene-4-sulfonic acid 4-trifluoromethoxy-phenyl ester | FC(OC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C14H11F3O4S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane | CCCCCCC | C7H16
product | 2-(5-Phenyl-pent-1-ynyl)-4-trifluoromethoxy-benzene | C1(=CC=CC=C1)CCCC#CC1=CC=CC(=C1)OC(F)(F)F | C18H15F3O
